US06313312B1
3-Hexyl-6-methyl-6-[3-(4H-1,2,4-triazol-3-yl)phenyl]-3-azabicyclo[3.1.0]hexane
To a solution of 3-hexyl-6-methyl-6-[3-(4H-1,2,4-triazol-3-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one (Preparation 43, 220 mg, 0.65 mmol) in tetrahydrofuran (5 ml) at room temperature was added lithium aluminium hydride (1.3 ml, 1.30 mmol, 1.0M in THF) dropwise over a few minutes. The mixture was then heated under reflux for 2 hours and then cooled to 0° C. 2N sodium hydroxide (1.0 ml) was added cautiously followed by ethyl acetate (10 ml) and the mixture was stirred rapidly for 30 minutes, then filtered through celite. The filtrate was concentrated in vacuo and the residue was purified by silica column chromatography eluting with ethyl acetate:methanol:amnonia solution (0.880) (80:20:1) to afford the title compound (190 mg, 90%) as a colourless oil.

reactant | 3-hexyl-6-methyl-6-[3-(4H-1,2,4-triazol-3-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one | 0.65 mmol, 220 mg | C(CCCCC)N1C(C2C(C2C1)(C1=CC(=CC=C1)C1=NN=CN1)C)=O | C20H26N4O
reactant | lithium aluminium hydride | 1.30 mmol, 1.0M, 1.3 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2N, 1.0 ml | [OH-].[Na+]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-Hexyl-6-methyl-6-[3-(4H-1,2,4-triazol-3-yl)phenyl]-3-azabicyclo[3.1.0]hexane | 190 mg, 90% | C(CCCCC)N1CC2C(C2C1)(C1=CC(=CC=C1)C1=NN=CN1)C | C20H28N4
